US05220018
3-Aminophenyl-1,3,4-triazole-5-one
3-Nitrophenyl-1,3,4-triazole-5-one (250 mg) was dissolved in 10 ml of ethanol, treated with 0.100 g of 10% palladium/carbon catalyst, and hydrogenated on a Parr apparatus at 25 psi for 5 minutes. The reaction mixture was filtered through Celite and concentrated to give 0.160 g of the title compound.

reactant | 3-Nitrophenyl-1,3,4-triazole-5-one | 250 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=NC(N=N1)=O | C8H4N4O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.100 g | [Pd] | Pd
product | 3-Aminophenyl-1,3,4-triazole-5-one | 0.160 g | NC=1C=C(C=CC1)C1=NC(N=N1)=O | C8H6N4O
